### PR TITLE
feat(RingTheory/WittVector): the Teichmuller series

### PR DESCRIPTION
**Pull request by jjdishere**
In this PR, we show that every element `x` of the Witt vectors `𝕎 R` can be written as the (`p`-adic) summation of the Teichmuller series. Instead of using `tsum`, we only show that `p ^ (n + 1)` divides `x` minus the summation of the first `n + 1` terms of the Teichmuller series. We also show that if `p` divides the first (n + 1) coefficients of a Witt vector, then `p^(n+1)` divides the `n`-th ghost component.

#21564 depends on this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/Aut.lean [hunk 1]
```diff
@@ -62,4 +62,27 @@ def toPerm : RingAut R →* Equiv.Perm R where
   map_one' := rfl
   map_mul' _ _ := rfl
 
+variable {R}
+
+theorem one_eq_refl : (1 : R ≃+* R) = RingEquiv.refl R := rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Ring/Aut.lean:67]: Do we really need those? I mean, nothing against them, but if we add them for `RingEquiv` we should do the same for all other equivs.

File: Mathlib/FieldTheory/Perfect.lean [hunk 2]
```diff
@@ -154,6 +154,16 @@ theorem frobeniusEquiv_symm_comp_frobenius :
...
 
+@[simp]
+theorem iterate_frobeniusEquiv_symm_pow_p_pow (R : Type*) (p : ℕ)
+    [CommSemiring R] [ExpChar R p] [PerfectRing R p] (x : R) (n : ℕ) :
+    ((_root_.frobeniusEquiv R p).symm ^[n]) x ^ (p ^ n) = x := by
+  revert x
+  induction' n with n ih
+  · simp
+  · intro x
+    simp [pow_succ, pow_mul, ih]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Perfect.lean:165]:
```suggestion
@[simp]
theorem iterate_frobeniusEquiv_symm_pow_p_pow (x : R) (n : ℕ) :
    ((frobeniusEquiv R p).symm ^[n]) x ^ (p ^ n) = x := by
  induction n generalizing x with
  | zero => simp
  | succ n ih => simp [pow_succ, pow_mul, ih]
```
`R` is already in scope, and you can use `induction n generalizing x`.

File: Mathlib/RingTheory/WittVector/Basic.lean [hunk 3]
```diff
@@ -263,6 +263,21 @@ theorem map_surjective (f : R →+* S) (hf : Surjective f) : Surjective (map f :
...
+  simp
+
+theorem map_eq_zero_iff {p : ℕ} {R S : Type*} [CommRing R] [CommRing S] [Fact (Nat.Prime p)]
+    (f : R →+* S) {x : WittVector p R} :
+    ((map f) x) = 0 ↔ ∀ n, f (x.coeff n) = 0 := by
+  refine ⟨fun h n ↦ ?_, fun h ↦ ?_⟩
+  · apply_fun (fun x ↦ x.coeff n) at h
+    simpa using h
+  · ext n
+    simpa using h n
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/Basic.lean:279]:
```suggestion
variable (R) in
@[simp]
theorem map_id : WittVector.map (RingHom.id R) = RingHom.id (𝕎 R) := by
  ext; simp

theorem map_eq_zero_iff (f : R →+* S) {x : WittVector p R} :
    ((map f) x) = 0 ↔ ∀ n, f (x.coeff n) = 0 := by
  refine ⟨fun h n ↦ ?_, fun h ↦ ?_⟩
  · apply_fun (·.coeff n) at h
    simpa using h
  · ext n
    simpa using h n
```

File: Mathlib/RingTheory/WittVector/Basic.lean [hunk 4]
```diff
@@ -280,6 +295,25 @@ def ghostComponent (n : ℕ) : 𝕎 R →+* R :=
...
+  apply Finset.dvd_sum
+  intro i hi
+  simp only [Finset.mem_range] at hi
+  have : (MvPolynomial.aeval x.coeff) ((MvPolynomial.monomial (R := ℤ)
+      (Finsupp.single i (p ^ (n - i)))) (p ^ i)) = ((p : R) ^ i) * (x.coeff i) ^ (p ^ (n - i)) := by
+    simp [MvPolynomial.aeval_monomial, map_pow]
+  rw [this]
+  have : n + 1 = (n - i) + 1 + i := by omega
+  nth_rw 1 [this]
+  rw [pow_add, mul_comm]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/Basic.lean:310]:
```suggestion
  rw [this, show n + 1 = (n - i) + 1 + i by omega, pow_add, mul_comm]
```

File: Mathlib/RingTheory/WittVector/Basic.lean [hunk 5]
```diff
@@ -280,6 +295,25 @@ def ghostComponent (n : ℕ) : 𝕎 R →+* R :=
...
+  apply mul_dvd_mul_left
+  refine (pow_dvd_pow_of_dvd ?_ _).trans (b := (x.coeff i) ^ (n - i + 1)) (pow_dvd_pow _ ?_)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/Basic.lean:312]:
```suggestion
  refine (pow_dvd_pow_of_dvd ?_ _).trans (pow_dvd_pow _ ?_)
```

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean [hunk 6]
```diff
@@ -0,0 +1,134 @@
...
+local notation "𝕎" => WittVector p
+
+variable {R : Type*} [CommRing R]
+
+theorem sum_coeff_eq_coeff_sum {α : Type*} {S : Finset α} (x : α → 𝕎 R)
+    (h : ∀ (n : ℕ), Subsingleton {r | r ∈ S ∧ (x r).coeff n ≠ 0}) (n : ℕ) :
+    (∑ s ∈ S, x s).coeff n = ∑ (s ∈ S), (x s).coeff n := by
+  classical
+  revert n
+  induction' S using Finset.induction with a S' ha hind
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:45]: Can you use `induction ... generalizing ...` here?

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean [hunk 7]
```diff
@@ -0,0 +1,134 @@
...
+      push_neg at this
+      choose b hb hb' using this
+      have : a = b :=
+        congrArg (fun x ↦ x.1) <|
+          (h m).allEq ⟨a, S'.mem_insert_self a, hma⟩ ⟨b, S'.mem_insert_of_mem hb, hb'⟩
+      exact ha (this ▸ hb)
+    rw [coeff_add_of_disjoint n _ _ this, hind n]
+
+@[simp]
+theorem teichmuller_mul_pow_coeff {R : Type*} [CommRing R] [CharP R p] (n : ℕ) (x : R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:69]: Can you add a `variable {R : Type*} ...` line?

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean [hunk 8]
```diff
@@ -0,0 +1,134 @@
...
+    (p : 𝕎 R) ^ (n + 1) ∣ x - ∑ (i ≤ n), (teichmuller p
+        (((_root_.frobeniusEquiv R p).symm ^ i) (x.coeff i)) * p ^ i) := by
+  rw [← Ideal.mem_span_singleton, mem_span_p_pow_iff_le_coeff_eq_zero,
+      ← le_coeff_eq_iff_le_sub_coeff_eq_zero]
+  intro i hi
+  rw [WittVector.sum_coeff_eq_coeff_sum]
+  · rw [Finset.sum_eq_add_sum_diff_singleton (Finset.mem_Iic.mpr (Nat.lt_succ_iff.mp hi))]
+    let g := fun x : ℕ ↦ (0 : R)
+    rw [Finset.sum_congr rfl (g := fun x : ℕ ↦ (0 : R))]
+    · simp
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:98]:
```suggestion
    rw [Finset.sum_congr rfl (g := g)]
    · simp [g]
```
It looks nicer to me, but not very important.

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean [hunk 9]
```diff
@@ -0,0 +1,134 @@
...
+    · intro b hb
+      simp only [Finset.mem_sdiff, Finset.mem_Iic, Finset.mem_singleton] at hb
+      exact teichmuller_mul_pow_coeff_of_ne _ (Ne.intro hb.2).symm
+  · refine fun n ↦ ⟨fun ⟨a, _, ha⟩ ⟨b, _, hb⟩ ↦ ?_⟩
+    ext
+    dsimp only [ne_eq, Set.mem_setOf_eq]
+    have := of_not_not ((teichmuller_mul_pow_coeff_of_ne _).mt ha)
+    rw [← this]
+    have := of_not_not ((teichmuller_mul_pow_coeff_of_ne _).mt hb)
+    exact this
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:108]:
```suggestion
    rw [← of_not_not ((teichmuller_mul_pow_coeff_of_ne _).mt ha)]
    exact of_not_not ((teichmuller_mul_pow_coeff_of_ne _).mt hb)
```

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/Algebra/Ring/Aut.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/Algebra/Ring/Aut.lean:67]: I believe we need these lemmas, especially those tagged with `[simp]`. Currently, the simp normal form will stop at `(1 : R ≃+* R) x` without any lemma that can further modify the proof state.

I'll add similar lemmas for other equivs in another PR.

Comment (jjdishere) [reply Mathlib/Algebra/Ring/Aut.lean:67]: It seems the corresponding lemmas already exist for `MulAut` and `AddAut`. see [MulAut.one_def](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/End.html#MulAut.one_def), [MulAut.coe_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/End.html#MulAut.coe_one)

`AlgAut` doesn't exist yet.

I'll check more and open the PR for aut lemmas later.

**Comment by jjdishere** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26387

File: Mathlib/Algebra/Ring/Aut.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/Algebra/Ring/Aut.lean:67]: The only `xxxAut` I can find is `MulAut`, `AddAut`, and `RingAut`. These lemmas already exist for `AddAut` and `MulAut`. So the only remaining work is making `RingAut` aligned with the other two.

Comment (jjdishere) [reply Mathlib/Algebra/Ring/Aut.lean:67]: Despite that they don't have names `AlgAut`, `LinearAut`, similar lemmas [AlgEquiv.aut_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Equiv.html#AlgEquiv.aut_one) and [LinearEquiv.one_eq_refl](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Equiv/Basic.html#LinearEquiv.one_eq_refl) also exist.

File: Mathlib/FieldTheory/Perfect.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Perfect.lean:165]: Solved. Thanks!

File: Mathlib/RingTheory/WittVector/Basic.lean (hunk 3 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/Basic.lean:279]: Solved. Thanks!

File: Mathlib/RingTheory/WittVector/Basic.lean (hunk 4 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/Basic.lean:310]: Solved. Thanks!

File: Mathlib/RingTheory/WittVector/Basic.lean (hunk 5 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/Basic.lean:312]: Solved. Thanks!

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean (hunk 6 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:45]: Fixed. Thanks.

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean (hunk 7 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:69]: Added. Thanks!

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean (hunk 8 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:98]: Fixed. Thanks!

File: Mathlib/RingTheory/WittVector/TeichmullerSeries.lean (hunk 9 above)
Comment (jjdishere) [reply Mathlib/RingTheory/WittVector/TeichmullerSeries.lean:108]: Fixed. Thanks!
